US07122546B2
To a solution of 6-chloro-3-methyl-4-propyl-pyridazine (8.03 g, 47.06 mmol) in CH2Cl2 (200 ml) is added mCPBA (11.6 g, 77%, 51.77 mmol). The mixture is stirred at room temperature overnight. Saturated K2CO3 aqueous solution (50 ml) is added and the layers are separated. The organic layer is then washed with brine (100 ml) and dried (Na2SO4) and evaporated, which provides 6-chloro-3-methyl-4-propyl-pyridazine 2-oxide as a light yellow oil.

reactant | 6-chloro-3-methyl-4-propyl-pyridazine | 47.06 mmol, 8.03 g | ClC1=CC(=C(N=N1)C)CCC | C8H11ClN2
reactant | mCPBA | 51.77 mmol, 11.6 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | K2CO3 | 50 ml | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | 6-chloro-3-methyl-4-propyl-pyridazine 2-oxide | ClC1=CC(=C([N+](=N1)[O-])C)CCC | C8H11ClN2O
